US04977155
c. 8-Ethoxycarbonyl-2,3-dihydroxythieno[3,2-f]quinoxaline
A solution of 5-ethoxalylamino-2-ethoxycarbonyl-4-nitrobenzo[b]thiophene (0.84 g, 2.3 mmol) in ethanol was hydrogenated at atmospheric pressure and room temperature in the presence of 0.55 g of 5% palladium-on-charcoal. The catalyst was removed by filtration and washed with ethanol. The filtrate was heated to reflux for 11/2 h, and cooled. The resulting precipitate was collected by filtration and washed with ethanol to give 0.42 g (63%) of the title compound, m.p. 357°-361° C.; IR (KBr): 1680 cm-1 ; 1H-NMR (DMSO-d6): 1.36 (t, J=7 Hz, 3H, CH3), 4.37 (q, J=7 Hz, 2H, CH2), 7.33 (d, J=9 Hz, 1H, ArH), 7.73 (d, J=9 Hz, 1H, ArH), 8.83 (s, 1H, H-9), 12.06 and 12.30 (2 broad s, 2H, 2 OH).

reactant | 5-ethoxalylamino-2-ethoxycarbonyl-4-nitrobenzo[b]thiophene | 2.3 mmol, 0.84 g | C(=O)(C(=O)OCC)NC1=C(C2=C(SC(=C2)C(=O)OCC)C=C1)[N+](=O)[O-] | C15H14N2O7S
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.55 g | [Pd] | Pd
product | 8-Ethoxycarbonyl-2,3-dihydroxythieno[3,2-f]quinoxaline | 0.42 g, 63% | C(C)OC(=O)C1=CC=2C=3N=C(C(=NC3C=CC2S1)O)O | C13H10N2O4S
